US06015887
To a solution of L-tyrosine methyl ester (Sigma Chemical Company) (10.0 g, 51.3 mmol) and diisopropylethylamine (25.9 g, 200.0 mmol) in CH2Cl2 (400 mL) was added t-butyldiphenylsilyl chloride (TBDPS-Cl; 35.2 g, 128.2 mmol) at 23° C. The resultant mixture was stirred at 23° C. for 14 hours. The crude reaction mixture was dried over (MgSO4) and concentrated in vacuo. The resultant residue was purified by silica gel flash column chromatography. The polarity of the eluting solvent mixture was adjusted according to the Rf value of the product. The eluted fractions were combined, dried over MgSO4, concentrated and dried to give 19.5 g (87.8% yield) of O-(tert-butyldiphenylsilyl)-L-tyrosine methyl ester as a colorless syrup. Rf (hexanes/ethyl acetate (AcOEt)/methanol (MeOH) 20:20:1)=0.38.

reactant | L-tyrosine methyl ester | 51.3 mmol, 10.0 g | COC([C@@H](N)CC1=CC=C(C=C1)O)=O | C10H13NO3
reactant | diisopropylethylamine | 200.0 mmol, 25.9 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | t-butyldiphenylsilyl chloride | 128.2 mmol, 35.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | CH2Cl2 | 400 mL | C(Cl)Cl | CH2Cl2
product | O-(tert-butyldiphenylsilyl)-L-tyrosine methyl ester | 19.5 g, 87.8% yield | COC([C@@H](N)CC1=CC=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O | C26H31NO3Si
